US04296029
Hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one
A solution of butyl lithium (0.05 mole) in hexane (34.4 ml), was treated with 2,2,6,6-tetramethylpiperidine (9.3 ml) followed by dry THF (100 ml) under an inert atmosphere at 0° C. The mixture was treated with N-methylcaprolactam (6.9 ml, 55 mM) and stirred for 30 minutes. A solution of butyl lithium (0.05 mole) in hexane (34.4 ml) was added, the reaction mixture stirred 15 minutes then treated with o-chloroanisole (3.1 ml). After 30 minutes a solution of butyl lithium (0.05 moles) in hexane (31.25 ml) was added, the mixture stirred for 15 minutes and treated with o-chloroanisole (3.1 ml). After a further 30 minutes, the reaction was quenched with water (100 ml) and the solvents removed under reduced pressure. The residue was partitioned between 5 N HCl (100 ml) and toluene (250 ml). The organic phase was washed with brine, dried and the solvents removed under reduced pressure.

reactant | butyl lithium | 0.05 mole | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 9.3 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | N-methylcaprolactam | 55 mM, 6.9 ml | CN1C(CCCCC1)=O | C7H13NO
reactant | butyl lithium | 0.05 mole | C(CCC)[Li]
reactant | o-chloroanisole | 3.1 ml | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | butyl lithium | 0.05 moles | C(CCC)[Li]
reactant | o-chloroanisole | 3.1 ml | ClC1=C(C=CC=C1)OC | C7H7ClO
solvent | hexane | 34.4 ml | CCCCCC | C6H14
solvent | hexane | 34.4 ml | CCCCCC | C6H14
solvent | hexane | 31.25 ml | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one | COC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C14H19NO2
